US06809105B2
1-tert-butyl 4-ethyl 3-oxo-1,4-piperidinedicarboxylate
Ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride (24.16 g, 81.1 mmol) in ethanol (250 mL) was treated with triethyl amine (11.3 mL, 81.1 mmol), di-tert-butyl dicarbonate (18.6 g, 85.3 mmol) and 10% Pd/C (0.13 g). After stirring under H2 (1 atm) at 50° C. for 1 hour, the mixture was allowed to cool to ambient temperature and filtered through diatomaceous earth with an ethanol (2×20 mL) rinse. The filtrate was concentrated under reduced pressure. The residue was treated with diethyl ether (200 mL) and refiltered with a diethyl ether rinse (2×30 mL). The filtrate was concentrated under reduced pressure to provide the title compound as a yellow oil (20.6 g, 94% yield). 1H NMR (CD3OD, 300 MHz) δ1.32 (t, J=6.9 Hz, 3H), 1.48 (s, 9H), 2.32-2.26 (m, 3H), 3.5 (t, J=5.7 Hz, 1H), 4.0 (br s, 1H), 4.24 (q, J=6.9 Hz, 2H); MS (DCI/NH3) m/z 272 (M+H)+, 289 (M+NH4)+.

reactant | Ethyl 1-benzyl-3-oxopiperidine-4-carboxylate hydrochloride | 81.1 mmol, 24.16 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | triethyl amine | 81.1 mmol, 11.3 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 85.3 mmol, 18.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.13 g | [Pd] | Pd
product | 1-tert-butyl 4-ethyl 3-oxo-1,4-piperidinedicarboxylate | 20.6 g, 94% yield | O=C1CN(CCC1C(=O)OCC)C(=O)OC(C)(C)C | C13H21NO5
